US07153854B2
To a solution of benzyl 4-thiomorpholinecarboxylate (4.8 g) in methanol (30 mL) and H2O (20 mL) was added oxone (16.2 g) under ice water cooling and the mixture was stirred at ambient temperature for 2 hours. The solution was evaporated in vacuo and partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc. The combined organic layer was washed with water and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and EtOAc to give benzyl 4-thiomorpholinecarboxylate 1,1-dioxide as a colorless solid (3.8 g).

reactant | benzyl 4-thiomorpholinecarboxylate | 4.8 g | N1(CCSCC1)C(=O)OCC1=CC=CC=C1 | C12H15NO2S
reactant | oxone | 16.2 g | OOS(=O)[O-].[K+]
solvent | methanol | 30 mL | CO | CH4O
solvent | H2O | 20 mL | O | H2O
product | benzyl 4-thiomorpholinecarboxylate 1,1-dioxide | 3.8 g | N1(CCS(CC1)(=O)=O)C(=O)OCC1=CC=CC=C1 | C12H15NO4S
